US08207347B2
4-Chloro-2-methyl-6-oxo-1-propyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester
To a mixture of 4-hydroxy-2-methyl-6-oxo-1-propyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester (2.00 g, 8.36 mmol) and phosphoryl chloride (4.67 mL, 50.2 mmol), triethylamine (1.16 mL, 8.36 mmol) and methylene chloride (2 mL) were added and the mixture was stirred at r.t. overnight. It was concentrated in vacuo, poured into ice and carefully neutralised with sat.aq. K2CO3 solution. It was extracted with ethyl acetate (3×300 mL), the combined organic solution was washed with brine (20 mL), dried (MgSO4) and evaporated. The title compound was purified by flash chromatography, yield 0.6 g, 30%. LC-MS (m/z) 258.5 (MH+); tR=1.21 (method C).

reactant | 4-hydroxy-2-methyl-6-oxo-1-propyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester | 8.36 mmol, 2.00 g | C(C)OC(=O)C1=C(N(C(C=C1O)=O)CCC)C | C12H17NO4
reactant | phosphoryl chloride | 50.2 mmol, 4.67 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 8.36 mmol, 1.16 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-methyl-6-oxo-1-propyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(C=C1Cl)=O)CCC)C | C12H16ClNO3
